US07772238B2
Di-tert-butyl (3-fluoro-4-formylphenyl)(methyl)malonate.
Di-tert-butyl [4-(1,3-dioxolan-2-yl)-3-fluorophenyl](methyl)malonate (0.91 g, 2.30 mmol) and thiourea (0.87 g, 11.4 mmol) were stirred in refluxing EtOH/H2O (6.7 mL/6.7 mL) for 7 hours. Room temperature was attained and the solvent removed in vacuo. H2O (100 mL) was added to the residue and the products extracted into EtOAc (2×100 mL). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo to give 0.81 g of clean product (pale yellow gum, 100%). 1H NMR (CDCl3) δ 10.33 (s, 1H), 7.82 (t, J=8.1 Hz, 1H), 7.31 (dd, J=8.1, 1.8 Hz, 1H), 7.27 (dd, J=12.0, 1.8 Hz, 1H), 1.77 (s, 3H), 1.46 (s, 18H).

reactant | Di-tert-butyl [4-(1,3-dioxolan-2-yl)-3-fluorophenyl](methyl)malonate | 2.30 mmol, 0.91 g | O1C(OCC1)C1=C(C=C(C=C1)C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C)F | C21H29FO6
reactant | thiourea | 11.4 mmol, 0.87 g | NC(=S)N | CH4N2S
solvent | EtOH H2O | 6.7 mL | CCO.O
product | Di-tert-butyl (3-fluoro-4-formylphenyl)(methyl)malonate | 0.81 g, 100% | FC=1C=C(C=CC1C=O)C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C | C19H25FO5
